US06218393B1
Potassium carbonate (2.26 g, 16.4 mmol) was added to a solution of methyl-4-hydroxybenzoate (1.0 g, 6.6 mmol) and cyclohexyl bromide (1.62 ml, 13.1 mmol) in dimethylformamide (20 ml). The mixture was heated at 100° C. for 24 hours, cooled, filtered and concentrated in vacuo. Work up followed by flash chromatography over silica gel (hexane:ethyl acetate, 5:1) afforded methyl-4-cyclohexylbenzoate (169 mg). This was dissolved (162 mg, 0.69 mmol) in a mixture of 1,4-dioxane (10 ml) and water (5 ml) and lithium hydroxide monohydrate (32 mg, 0.76 mmol) added. The mixture was stirred at room temperature for 18 hours. A further quantity of lithium hydroxide was added (32 mg) and stirring continued for 4 hours. The mixture was added to ethyl acetate, washed with brine and concentrated to yield the title compound as a yellow solid (27 mg ).

reactant | Potassium carbonate | 16.4 mmol, 2.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl-4-hydroxybenzoate | 6.6 mmol, 1.0 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | cyclohexyl bromide | 13.1 mmol, 1.62 ml | C1(CCCCC1)Br | C6H11Br
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl-4-cyclohexylbenzoate | 169 mg | COC(C1=CC=C(C=C1)C1CCCCC1)=O | C14H18O2
